.circuit
R1 1 GND 1e3
R2 1 2 2e3
R3 2 3 4e3
V1 3 GND 2
V2 2 4 5
R4 4 5 5e3
I1 5 GND 1
R6 4 6 8e3
I2 GND 6 10
.end
# This is a malformed input file!